### PR TITLE
sendIPC_corres

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Solves `send_ipc_corres` but does a large number of other things too.
* moves `schedContextDonate_corres` and weakens the preconditions
* moves `replyPush_corres` and weakens the preconditions
* removes `sym_refs_assrt` from `schedContextDonate`
* removes `sym_refs_assrt` from `replyPush`
* Updated abstract to match C
* Updated Haskell to match abstract
* Adds a new heap and new `sym_refs` on some heap projections.

### CODE REVIEW

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -2335,260 +2344,1001 @@ crunches doIPCTransfer, possibleSwitchTo
...
+         \<comment> \<open>concludes RecvEP\<close>
+        apply wpsimp
+       apply (wpsimp wp: get_ep_ko')
+      apply (clarsimp simp: obj_at_def is_ep)
+     apply (clarsimp simp: sym_refs_asrt_def)+
+    done
+qed
+
+end
+
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:3269]: START -- This only moved, not new

File: proof/refine/ARM/Ipc_R.thy [hunk 2]
```diff
@@ -2335,260 +2344,1001 @@ crunches doIPCTransfer, possibleSwitchTo
...
+  apply (rule refills_heads_equal; (solves simp)?)
+  apply (auto simp: sc_relation_def valid_sched_context'_def active_sc_def
+                    refillHd_def refills_map_def refill_map_def wrap_slice_def
+             split: if_splits)
+  done
+
+(* FIXME RT: remove once Michael's awaken PR is merged *)
+lemma refillReady_corres:
+  "sc_ptr = scPtr
    \<Longrightarrow> corres (=) (valid_pspace and active_sc_valid_refills and active_sc_at sc_ptr) valid_objs'
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:3342]: END -- This only moved, not new

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -2335,289 +2344,831 @@ crunches doIPCTransfer, possibleSwitchTo
...
-                        ep_redux_simps' st_tcb_at_tcb_at valid_ep_def
-                        cong: list.case_cong)
-        apply (drule(1) sym_refs_obj_atD[where P="\<lambda>ob. ob = e" for e])
-        apply (clarsimp simp: st_tcb_at_refs_of_rev st_tcb_at_reply_cap_valid
-                              st_tcb_def2 valid_sched_def valid_sched_action_def)
-        apply (force simp: st_tcb_def2 dest!: st_tcb_at_caller_cap_null[simplified,rotated])
-       subgoal by (auto simp: valid_ep'_def invs'_def valid_state'_def split: list.split)
-      apply wp+
-    apply (clarsimp simp: ep_at_def2)+
+lemma tcbEPFindIndex_corres:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2347]: BEGIN -- only moved, not new.

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -2335,289 +2344,831 @@ crunches doIPCTransfer, possibleSwitchTo
...
+                             | _ \<Rightarrow> when (t = cur) rescheduleRequired) =
+   (when (t = cur \<or> (case rv' of SwitchToThread x \<Rightarrow> t = x | _ \<Rightarrow> False)) rescheduleRequired)"
+  by (case_tac rv'; clarsimp simp: when_def)
 
-crunches cancelIPC
-  for cur[wp]: cur_tcb'
-  (wp: crunch_wps gts_wp' simp: crunch_simps)
+crunches tcbReleaseRemove
+  for valid_tcbs'[wp]: valid_tcbs'
+  (wp: crunch_wps)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2416]: END -- only moved, not new.

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -2335,289 +2344,831 @@ crunches doIPCTransfer, possibleSwitchTo
...
 
-lemma setCTE_weak_sch_act_wf[wp]:
-  "\<lbrace>\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s\<rbrace>
-   setCTE c cte
-   \<lbrace>\<lambda>rv s. weak_sch_act_wf (ksSchedulerAction s) s\<rbrace>"
-  apply (simp add: weak_sch_act_wf_def)
-  apply (wp hoare_vcg_all_lift hoare_convert_imp setCTE_pred_tcb_at' setCTE_tcb_in_cur_domain')
+lemma schedContextDonate_corres:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2418]: Moved, but modified.

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -2335,289 +2344,831 @@ crunches doIPCTransfer, possibleSwitchTo
...
-  by (auto simp: wrap_slice_def hd_drop_conv_nth)
-
-(* FIXME RT: remove once Michael's awaken PR is merged *)
-lemma hd_refills_map:
-  "refills_map_precond start count mx list
-   \<Longrightarrow> hd (refills_map start count mx list) = refill_map (list ! start)"
-  apply (clarsimp simp: refills_map_def)
-  apply (subst hd_map, clarsimp simp: wrap_slice_def)
-  apply (clarsimp simp: hd_wrap_slice)
+lemma thread_set_weak_valid_sched_action2:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2499]: BEGIN -- moved, not new

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -2335,289 +2344,831 @@ crunches doIPCTransfer, possibleSwitchTo
...
+lemma bind_sc_reply_valid_objs[wp]:
+  "\<lbrace>valid_objs and reply_at reply_ptr and sc_at sc_ptr and
+    sc_replies_sc_at (\<lambda>a. reply_ptr \<notin> set a) sc_ptr\<rbrace>
+   bind_sc_reply sc_ptr reply_ptr
+   \<lbrace>\<lambda>_. valid_objs\<rbrace>"
+  unfolding bind_sc_reply_def
+  apply (wpsimp wp: hoare_list_all_lift)
+  apply (drule (1) valid_objs_ko_at)
+  by (clarsimp simp: valid_obj_def valid_sched_context_def sc_at_pred_n_def obj_at_def)
+
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2600]: END -- moved, not new

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -2335,289 +2344,831 @@ crunches doIPCTransfer, possibleSwitchTo
...
+lemma replyPush_corres:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2601]: Moved, but updated.

File: proof/refine/ARM/Ipc_R.thy [hunk 9]
```diff
@@ -2889,161 +3440,68 @@ lemma schedContextResume_corres:
...
+
+lemma refillUnblockCheck_valid_objs'[wp]:
+  "refillUnblockCheck scPtr \<lbrace>valid_objs'\<rbrace>"
+  unfolding refillUnblockCheck_def
+  apply wpsimp
+          apply (rule_tac P="valid_objs' and active_sc_at' scPtr" in whileM_post_inv, clarsimp)
+           apply (wpsimp wp: updateRefillHd_valid_objs' refillReady_wp isRoundRobin_wp scActive_wp)+
+  apply (drule ko_at'_inj, assumption, clarsimp)+
+  apply (clarsimp simp: active_sc_at'_def obj_at'_real_def ko_wp_at'_def)
   done
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:3505]: END -- This only moved, not new

File: proof/refine/ARM/Ipc_R.thy [hunk 10]
```diff
@@ -3931,409 +4379,97 @@ lemma sai_invs'[wp]:
...
-   apply (clarsimp simp: valid_release_queue'_def inQ_def)
-   apply (intro conjI)
-     apply clarsimp
-    apply (clarsimp simp: obj_at'_def valid_release_queue'_def)
-   apply (subgoal_tac "valid_tcb' tcb s'")
-    apply (clarsimp simp: valid_tcb'_def valid_bound_obj'_def split: option.splits)
-   apply (clarsimp simp: valid_tcbs'_def obj_at'_real_def ko_wp_at'_def projectKO_tcb)
-  apply (clarsimp simp: obj_at'_def)
-  done
+     apply (clarsimp simp:invs'_def)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:4382]: BEGIN -- This only moved, not new

File: proof/refine/ARM/Ipc_R.thy [hunk 11]
```diff
@@ -4998,20 +5129,6 @@ lemma tcbSchedEnqueue_valid_tcb_state'[wp]:
...
-  unfolding replyPush_def
-  apply (wpsimp wp: schedContextDonate_valid_objs' hoare_vcg_if_lift2
-                    threadGet_wp hoare_vcg_imp_lift')
-  apply (drule obj_at_ko_at'[where p=calleePtr], clarsimp)
-  apply (drule obj_at_ko_at'[where p=callerPtr], clarsimp)
-  apply (frule (1) tcb_ko_at_valid_objs_valid_tcb'[where p=callerPtr])
-  apply (force simp: valid_tcb_state'_def valid_tcb'_def valid_bound_sc'_def)
-  done
-
 crunches setThreadState
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:5132]: END -- This only moved, not new

File: proof/refine/ARM/Ipc_R.thy [hunk 12]
```diff
@@ -2335,289 +2344,831 @@ crunches doIPCTransfer, possibleSwitchTo
...
+  unfolding replyPush_def
+  apply (wpsimp wp: schedContextDonate_valid_objs' hoare_vcg_if_lift2
+                    threadGet_wp hoare_vcg_imp_lift')
+  apply (drule obj_at_ko_at'[where p=calleePtr], clarsimp)
+  apply (drule obj_at_ko_at'[where p=callerPtr], clarsimp)
+  apply (frule (1) tcb_ko_at_valid_objs_valid_tcb'[where p=callerPtr])
+  apply (force simp: valid_tcb_state'_def valid_tcb'_def valid_bound_sc'_def)
+  done
+
+(* FIXME RT: move *)
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:2778]: If this is a `FIXME` introduced in this PR, where should this be moved?

File: proof/refine/ARM/Ipc_R.thy [hunk 13]
```diff
@@ -3165,28 +3621,28 @@ lemma schedContextDonate_valid_idle':
...
    apply (simp only: schedContextDonate_def)
-   apply (rule hoare_seq_ext[OF _ stateAssert_sp])
-   apply (rule hoare_K_bind)
    apply (rule hoare_seq_ext[OF _ get_sc_sp'])
    apply (rule_tac hoare_weaken_pre[OF hoare_pre_cont])
-   apply (clarsimp simp: obj_at'_def sym_refs_asrt_def)
-  apply (wp schedContextDonate_valid_pspace' schedContextDonate_vrq
+   apply (clarsimp simp: obj_at'_def)
+  apply (wp schedContextDonate_valid_pspace'
                     schedContextDonate_valid_queues schedContextDonate_valid_queues'
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:3639]: nitpick: indentation

File: proof/refine/ARM/Ipc_R.thy [hunk 14]
```diff
@@ -5040,52 +5157,73 @@ lemma ReplySchedContext_obj_at'_ref:
...
                       projectKO_reply get_refs_def split: option.splits)
 
-lemma replyPush_sym_refs_list_refs_of_replies'[wp]:
+(* FIXME RT: THIS NOT SO ELEGANT *)
+lemma replySCs_of_retract:
+  "valid_objs' s \<Longrightarrow>
+   replies_scs_sym_refs s \<Longrightarrow>
+     \<forall>x xa. obj_at' (\<lambda>a. scReply a = Some x) xa s \<longrightarrow>
+            obj_at' (\<lambda>a. replyNext a = Some (Head xa)) x s"
+  apply (clarsimp simp: )
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5166]: nitpick: remove `simp: `

File: proof/refine/ARM/Ipc_R.thy [hunk 15]
```diff
@@ -5040,52 +5157,73 @@ lemma ReplySchedContext_obj_at'_ref:
...
   apply (wp schedContextDonate_if_live_then_nonz_cap' bindScReply_if_live_then_nonz_cap')
-       apply (rule_tac Q="\<lambda>_ s. (\<forall>scp. scPtrOptDonated = Some scp \<longrightarrow> ex_nonz_cap_to' scp s \<and> sc_at' scp s) \<and>
+       apply (rule_tac Q="\<lambda>_ s. (\<forall>scp. scPtrOptDonated = Some scp \<longrightarrow> ex_nonz_cap_to' scp s \<and> sc_at' scp s \<and>
+(\<forall>rp scp. obj_at' (\<lambda>ko. scReply ko = Some rp) scp s
+                                         \<longrightarrow>  obj_at' (\<lambda>ko. replyNext ko = Some (Head scp)) rp s)) \<and>
                                 ex_nonz_cap_to' calleePtr s \<and> ex_nonz_cap_to' replyPtr s \<and>
                                 valid_objs' s \<and> if_live_then_nonz_cap' s \<and> reply_at' replyPtr s
-                                 \<and> (\<forall>rp. obj_at' (\<lambda>ko. scReply ko = Some rp) (fromJust scPtrOptDonated) s
-                                         \<longrightarrow>  obj_at' (\<lambda>ko. replyNext ko = Some (Head (fromJust scPtrOptDonated))) rp s)"
+                                 "
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5226]: nitpick: move the `"` back into the previous line

File: proof/refine/ARM/Ipc_R.thy [hunk 16]
```diff
@@ -5126,11 +5261,93 @@ lemma bindScReply_valid_idle':
   unfolding bindScReply_def
   by (wpsimp wp: hoare_vcg_imp_lift' hoare_vcg_all_lift set_reply'.obj_at')
 
+lemma not_idle_scTCB0:
+  "valid_objs' s \<Longrightarrow>
+   obj_at' (\<lambda>x.  tcbSchedContext x = Some t) y s \<Longrightarrow>
+   sc_at' t s"
+  apply (subgoal_tac "tcb_at' y s")
+  apply (frule obj_at_ko_at', clarsimp)
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5269]: nitpick: indentation (`subgoal_tac` produces an extra subgoal?)

File: proof/refine/ARM/Ipc_R.thy [hunk 17]
```diff
@@ -5126,11 +5261,93 @@ lemma bindScReply_valid_idle':
...
+  "obj_at' (P :: ('a :: pspace_storable) \<Rightarrow> bool) y s \<Longrightarrow>
+   obj_at' (\<top> :: ('a :: pspace_storable) \<Rightarrow> bool) y s"
+  by (clarsimp simp: obj_at'_real_def ko_wp_at'_def)
+
+lemma not_idle_scTCB99:
+  "valid_objs' s \<Longrightarrow>
+   obj_at' (\<lambda>x. scTCB x = Some t) y s \<Longrightarrow>
+   tcb_at' t s"
+  apply (subgoal_tac "sc_at' y s")
+  apply (frule obj_at_ko_at'[where P=\<top>], clarsimp)
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5284]: nitpick: indentation because of extra subgoal

File: proof/refine/ARM/Ipc_R.thy [hunk 18]
```diff
@@ -5126,11 +5261,93 @@ lemma bindScReply_valid_idle':
...
+  apply (frule (1) sc_ko_at_valid_objs_valid_sc')
+  apply (clarsimp simp: obj_at'_real_def ko_wp_at'_def projectKO_tcb projectKO_sc
+                        valid_sched_context'_def)+
+  done
+
+lemma sc_tcbs_of_pred_map_equiv:
+  "sc_at' y s \<Longrightarrow>
+   obj_at' (\<lambda>x. scTCB x = Some t) y s = pred_map_eq t (scTCBs_of s) y"
+  by (clarsimp simp: obj_at'_real_def ko_wp_at'_def pred_map_eq_def pred_map_def
+                        projectKO_sc opt_map_def)
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5294]: nitpick: indentation

File: proof/refine/ARM/Ipc_R.thy [hunk 19]
```diff
@@ -5126,11 +5261,93 @@ lemma bindScReply_valid_idle':
...
+
+lemma not_idle_tcbSC:
+  "tcbs_scs_sym_refs s \<Longrightarrow>
+   valid_objs' s \<Longrightarrow>
+   valid_idle' s \<Longrightarrow>
+   y \<noteq> idle_thread_ptr \<Longrightarrow>
+   tcb_at' y s \<Longrightarrow>
+   obj_at' (\<lambda>x. tcbSchedContext x \<noteq> Some idle_sc_ptr) y s"
+  apply (subgoal_tac "\<not>obj_at' (\<lambda>x. tcbSchedContext x = Some idle_sc_ptr) y s")
+  apply (clarsimp simp: obj_at'_real_def ko_wp_at'_def)
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5338]: nitpick: indentation from extra subgoal

File: proof/refine/ARM/Ipc_R.thy [hunk 20]
```diff
@@ -5321,6 +5516,251 @@ lemma replyUnlink_obj_at_tcb_none:
...
+
+crunches replyUnlink
+  for tcb_scs_of'[wp]: "\<lambda>s. P (tcb_scs_of' s)"
+
+crunches replyUnlink
+  for scs_of'[wp]: "\<lambda>s. P (scs_of' s)"
+
+lemma replyUnlink_tcbs_scs_of[wp]:
+  "replyUnlink x2 a \<lbrace>\<lambda>s. P (tcb_scs_of' s) (scTCBs_of s)\<rbrace>"
+  by (rule hoare_weaken_pre, wps, wp, simp)+
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5576]: slick

File: proof/refine/ARM/Ipc_R.thy [hunk 21]
```diff
@@ -5321,6 +5516,251 @@ lemma replyUnlink_obj_at_tcb_none:
...
+  apply (intro conjI)
+   apply (erule (1) pspace_alignedD')
+  apply (erule (1) pspace_distinctD')
+  done
+
+lemma SCReply_pred_map_state_refs_of':
+  "\<lbrakk>pred_map ((=) r) (scReplies_of s) p; pspace_aligned' s; pspace_distinct' s\<rbrakk>
+   \<Longrightarrow> (r, SCReply) \<in> state_refs_of' s p"
+  apply (subgoal_tac "sc_at' p s")
+  apply (clarsimp simp: pred_map_def state_refs_of'_def obj_at'_real_def ko_wp_at'_def projectKO_sc
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5711]: nitpick: indentation because of extra subgoal

File: proof/refine/ARM/Ipc_R.thy [hunk 22]
```diff
@@ -5321,6 +5516,251 @@ lemma replyUnlink_obj_at_tcb_none:
...
+  apply (clarsimp simp: state_refs_of'_def split: option.splits if_splits)
+  apply (clarsimp simp: pred_map_def tcb_of'_Some obj_at'_def ko_wp_at'_def projectKO_sc get_refs_def2 projectKO_eq split: if_splits)
+  apply (clarsimp simp: opt_map_def)
+  done
+
+lemma ReplySC_pred_map_state_refs_of':
+  "\<lbrakk>pred_map ((=) r) (replySCs_of s) p; pspace_aligned' s; pspace_distinct' s\<rbrakk>
+   \<Longrightarrow> (r, ReplySchedContext) \<in> state_refs_of' s p"
+  apply (subgoal_tac "reply_at' p s")
+  apply (clarsimp simp: pred_map_def state_refs_of'_def obj_at'_real_def ko_wp_at'_def projectKO_reply)
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:5729]: nitpick: indentation because of extra subgoal

File: proof/refine/ARM/Ipc_R.thy [hunk 23]
```diff
@@ -2335,289 +2344,831 @@ crunches doIPCTransfer, possibleSwitchTo
...
+     apply (wp thread_get_wp)
+    apply (wpsimp wp: threadGet_wp)
+   apply (fastforce simp: projectKO_eq projectKO_tcb obj_at'_def)+
+  done
 
-crunches cancel_ipc
-  for cur[wp]: "cur_tcb"
-  and ntfn_at[wp]: "ntfn_at t"
-  (wp: select_wp crunch_wps simp: crunch_simps ignore: set_object)
+lemma tcbEPAppend_corres:
```
Comment (VictorPhan) [inline proof/refine/ARM/Ipc_R.thy:2385]: Did you do the corres rename in this PR? I'm curious since it's not caught in my PR, unless this is an MCS specific operation.

**Review by VictorPhan — APPROVED** [review]
cool

File: proof/refine/ARM/Ipc_R.thy (hunk 23 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2385]: I did this rename in my PR. Not sure whether it is MCS specific.

**Comment by MitchellBuckley** [comment]
This is now in a messy state and should not be reviewed. It would perhaps be best to decline it and put up a new PR.

**Comment by MitchellBuckley** [comment]
Thank you @VictorPhan for the review. This PR will be resurrected as two separate PRs.
